US07115611B2
A solution of 15.76 ml (171 mmol) of methyl bromoacetate and 25.0 g (163 mmol) of 2-methyl-4-nitrophenol in 300 ml dry acetonitrile was treated with 61.3 g (188 mmol) Cs2CO3 and stirred at RT for 4 h. The mixture was filtered, washed with acetonitrile and evaporated. The residue was suspended in 700 ml CH2Cl2, filtered and evaporated to give 36.4 g of (2-methyl-4-nitro-phenoxy)-acetic acid methyl ester as yellow crystals.

reactant | methyl bromoacetate | 171 mmol, 15.76 ml | BrCC(=O)OC | C3H5BrO2
reactant | 2-methyl-4-nitrophenol | 163 mmol, 25.0 g | CC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H7NO3
reactant | Cs2CO3 | 188 mmol, 61.3 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | (2-methyl-4-nitro-phenoxy)-acetic acid methyl ester | 36.4 g | COC(COC1=C(C=C(C=C1)[N+](=O)[O-])C)=O | C10H11NO5
